US04113940
Acetic acid (4.5 ml) and zinc powder (3.6 g) were added under stirring and ice-cooling to a solution of 2,2,2-trichloroethyl 2-methyl-7-(2-phenylthioacetamido)-3-cephem-4-carboxylate (2.79 g) in anhydrous dimethylformamide (15 ml), and the mixture was stirred for 2 hours at the same temperature. After the reaction, zinc powder was filtered off, and the filtrate was poured into a mixture of 5% hydrochloric acid (75 ml) and ethyl acetate (50 ml), and extracted. The extract was washed with water and dried. After the solvent was distilled off, the residue was crystalized by adding ether to give colorless crystals of 2-methyl-7-(2-phenylthioacetamido)-3-cephem-4-carboxylic acid (2.0 g), mp 168° to 171° C. (dec.).

reactant | Acetic acid | 4.5 ml | C(C)(=O)O | C2H4O2
reactant | 2,2,2-trichloroethyl 2-methyl-7-(2-phenylthioacetamido)-3-cephem-4-carboxylate | 2.79 g | CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=S)=O | C18H17Cl3N2O3S2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
catalyst | zinc | 3.6 g | [Zn] | Zn
product | 2-methyl-7-(2-phenylthioacetamido)-3-cephem-4-carboxylic acid | 2.0 g | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(CC2=CC=CC=C2)=S)=O | C16H16N2O3S2
